US09255110B2
To a solution of 0.050 g (0.233 mmole) 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid, 0.0672 g (0.466 mmole) of quinolin-6-amine, 0.122 mL (0.699 mmole) of N,N-diisopropylethylamine and 1.55 mL of dimethylformamide was added 0.111 g (0.256 mmole) of O-(benzotriazol-1-yl)-N,N,N′,N′-bis(tetramethylene)uronium hexafluorophosphate. The mixture was stirred at room temperature for 2 hours. Water and dichloromethane were added. The aqueous layer was washed three times with dichloromethane. The combined organic layer was washed with aqueous sodium carbonate, brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was dried in high vacuum to give 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide as a yellow-greenish solid

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.233 mmole, 0.050 g | ClC=1N=CC2=C(N1)C(=CS2)C(=O)O | C7H3ClN2O2S
reactant | quinolin-6-amine | 0.466 mmole, 0.0672 g | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
reactant | N,N-diisopropylethylamine | 0.699 mmole, 0.122 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-bis(tetramethylene)uronium hexafluorophosphate | 0.256 mmole, 0.111 g | C1CCN(C1)C(=[N+]2CCCC2)ON3C4=CC=CC=C4N=N3.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | dimethylformamide | 1.55 mL | CN(C=O)C | C3H7NO
product | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid quinolin-6-ylamide | N1=CC=CC2=CC(=CC=C12)NC(=O)C1=CSC2=C1N=C(N=C2)Cl | C16H9ClN4OS
